US04263037
2-(2-Hydroxy-5-cyanophenyl)-2-methyl N,N-dimethyl-propanoamide
A suspension of 5-cyano-2,3-dihydro-3,3-dimethylbenzofuran-2-one (3.7 g), prepared as in Example 3, in diethyl ether (50 ml) was treated with a solution of dimethylamine in ethanol (8.6 ml of a 20.8% solution) portionwise with stirring at room temperature. The mixture was stirred for two hours, and the product was isolated by filtration, yield 4 g, mp 146°-148° C.

reactant | 5-cyano-2,3-dihydro-3,3-dimethylbenzofuran-2-one | 3.7 g | C(#N)C=1C=CC2=C(C(C(O2)=O)(C)C)C1 | C11H9NO2
reactant | dimethylamine | CNC | C2H7N
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Hydroxy-5-cyanophenyl)-2-methyl N,N-dimethyl-propanoamide | OC1=C(C=C(C=C1)C#N)C(C(=O)N(C)C)(C)C | C13H16N2O2
